US07595397B2
3-(S)-benzyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine
0.13 g of 3-(S)-benzyl-1-(4-bromo-benzyl)-piperazine were combined with 1.5 equiv. of 2-trifluoromethylphenyl boronic acid, 0.05 equiv. of tetrakis(triphenylphosphine)palladium(0), 2M aqueous sodium carbonate solution, toluene and ethanol. The reaction mixture was heated in a sealed tube at 120° C. overnight. The reaction mixture was filtered through Celite and concentrated in vacuo. The residue was diluted with water and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by flash chromatography to afford 0.18 g of the title compound. ES MS (+) m/z 411.

reactant | 3-(S)-benzyl-1-(4-bromo-benzyl)-piperazine | 0.13 g | C(C1=CC=CC=C1)[C@H]1CN(CCN1)CC1=CC=C(C=C1)Br | C18H21BrN2
reactant | 2-trifluoromethylphenyl boronic acid | 1.5 equiv. | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | C(C)O | C2H6O
product | 3-(S)-benzyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine | 0.18 g | C(C1=CC=CC=C1)[C@H]1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C25H25F3N2
